US05885999
d) N-[2-(1-t-Butoxycarbonylpiperidin-4-yl)phenyl]methanesulfonamide
Methanesulfonyl chloride (364 mg) was added to a solution of 1-t-butoxycarbonyl-4-(2-aminophenyl)piperidine (880 mg) and pyridine (252 mg) in dichloromethane. The mixture was heated under reflux for 30 min., cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was partitioned between aqueous citric acid (10%) and ethyl acetate (100 mL). The organic layer was separated, dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a yellow solid (1.15 g), δH (CDCl3) 1.48 (9H, s), 1.60 (2H, m), 1.73 (2H, m), 2.83 (2H, m), 3.04 (3H, s), 3.09 (1H, m), 4.26 (2H, m), 6.21 (1H, br s), 7.21-7.37 (2H, m). m/e (ES+) 355 (MH+).

reactant | Methanesulfonyl chloride | 364 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-t-butoxycarbonyl-4-(2-aminophenyl)piperidine | 880 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)N | C16H24N2O2
reactant | pyridine | 252 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(1-t-Butoxycarbonylpiperidin-4-yl)phenyl]methanesulfonamide | 1.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C | C17H26N2O4S
